2123-07-17 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2123-7-16**] 09:45 PM
   Patient transfused 1 unit PRBC
   Mild delirium overnight
   Pain active overnight, responded well to 1mg IV Morphine with only mild
   drop in SBP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-7-17**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.1
   HR: 71 (64 - 82) bpm
   BP: 100/52(64) {93/40(57) - 125/84(93)} mmHg
   RR: 21 (19 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                  Total In:
                                                                    500 mL
                                                                    375 mL
   PO:
                  TF:
   IVF:
   Blood products:
   375 mL
   Total out:
                                                                    300 mL
                                                                    230 mL
   Urine:
                                                                    300 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    200 mL
                                                                    145 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   121 K/uL
   10.4 g/dL
   89 mg/dL
   1.2 mg/dL
   24 mEq/L
   4.3 mEq/L
   39 mg/dL
   104 mEq/L
   138 mEq/L
   29.8 %
   4.5 K/uL
        [image002.jpg]
   [**2123-7-15**] 04:40PM BLOOD CK(CPK)-75
   [**2123-7-16**] 04:47AM BLOOD CK(CPK)-197*
   [**2123-7-16**] 10:30AM BLOOD CK(CPK)-215*
   [**2123-7-16**] 07:34PM BLOOD CK(CPK)-476*
   [**2123-7-17**] 05:51AM BLOOD CK(CPK)-468
   [**2123-7-15**] 04:40PM BLOOD cTropnT-0.04*
   [**2123-7-16**] 04:47AM BLOOD CK-MB-11* MB Indx-5.6 cTropnT-0.46*
   [**2123-7-16**] 10:30AM BLOOD CK-MB-10 MB Indx-4.7 cTropnT-0.57*
   [**2123-7-16**] 07:34PM BLOOD CK-MB-12* MB Indx-2.5 cTropnT-0.55*
                             [**2123-7-17**]  05:51 AM
   WBC
   4.5
   Hct
   29.8
   Plt
   121
   Cr
   1.2
   Glucose
   89
   Other labs: PT / PTT / INR:13.3/32.2/1.1, CK / CKMB / Troponin-T:468//,
   Differential-Neuts:84.7 %, Lymph:11.2 %, Mono:3.5 %, Eos:0.5 %,
   Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   87 year old woman with mild systolic heart failure, severe aortic
   stenosis and mitral regurgitation, osteoporosis, admitted to the
   hospital after a fall, without evidence of acute fracture, now
   developing ECG changes and cardiac enzyme elevation in setting of
   hypotension, in fair condition.
   #. Non-ST elevation myocardial infarction: in the setting of relative
   hypotension, severe valvular disease as well as anemia. Suspect this
   constitutes a demand event relative hypovolemia. [**Name2 (NI) 1082**] risk score is 4
   (age, aspirin, known lesion and ST changes > 0.5mm). Given possible
   occult bleeding at this time however, risk of heparin drip in the
   setting of decreasing troponins likely outweighs benefit
   n        Serial ECG
   n        Continue daily aspirin
   n        Without symptoms, would not start heparin / plavix, especially
   given likely bleeding
   n        Volume expand with blood, given critical AS however will need
   to infuse very slowly (6 hours); goal near 30
   n        ECG findings suggestive of inferior ischemia, consistent with
   RCA territory; patient will likely be pre-load dependent
   n        Cardiac enzymes in AM
   #. Hypotension: improved, now near baseline
   n        Gentle volume expansion as above
   n        F/U cultures, no signs of infection / sepsis at this time
   #. Anemia: Acute on chronic, with macrocytic pattern
   n        transfuse as above
   n        No clear source of bleeding, negative imaging now and no
   indication of any other losses
   n        GUAIAC all stools
   #. Acute renal failure: Likely pre-renal azotemia, FeNA 0.8%
   n        Blood transfusion as above
   #. Inappropiate lack of tachycardia: although concerning that patient
   is not tachycardic with systemic hypotension, tachycardia would lead to
   further hemodynamic compromise due to inability to have forward flow
   n        Although would avoid any nodal agents, tachycardia should be
   avoided, anticipate euvolemia will help maintain normal heart rate
   #. Systolic heart failure: Appears well compensated now, although per
   history, it appears she recently had a decompensation with severe lower
   extremity edema
   n        Hold diuretics for now
   n        Hold ACE-inhibitor
   #. Valvular heart disease: Critical AS and moderate MR concerning for
   high risk of pulmonary edema, especially at faster heart rates.
   -- Monitor carefully, minimal crackles at this time
   #. Cervical fracture: Unclear if acute or chronic. Patient with soft
   collar that she tolerates very poorly
   n        Hard [**Location (un) 1083**] J collar now
   n        Neurosurgery called, will re-visit need for collar in AM:
   #. Urinary track infection? Equivocal UA, with small leukocyte esterase
   in absence of symptoms
   n        Would not treat unless urine culture is positive.
   #. Conjunctivitis: Ciprofloxacin eye drops for 7 days
   ICU Care
   Nutrition: Would advance diet today
   Glycemic Control:
   Lines:
   20 Gauge - [**2123-7-17**] 02:01 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: To floor today if stable

2123-07-18 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Blood pressure was low in the 82-85 systolic range intermittently
   throughout the day, and night.  UOP minimal 10-25cc/hr.  No change in
   mental status.
   -Patient was transfused another unit of blood for hypotension, HCT
   bumped appropriately from 29.8-33.8, and ARF also improved with
   creatinine returning to baseline.
   -Gave a 250cc bolus over one hour this morning for no UOP over last
   hour
   -Cardiology consulted, they agree that this is likely a demand event,
   and do not recommend any further interventions, other than considering
   a statin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-7-18**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.8
   HR: 64 (52 - 76) bpm
   BP: 100/50(61) {82/41(42) - 120/55(68)} mmHg
   RR: 14 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                  Total In:
                                                                  1,380 mL
                                                                    180 mL
   PO:
                                                                    630 mL
                                                                    180 mL
   TF:
   IVF:
   Blood products:
                                                                    750 mL
   Total out:
                                                                    581 mL
                                                                    145 mL
   Urine:
                                                                    581 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    799 mL
                                                                     35 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   116 K/uL
   11.9 g/dL
   79 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.8 mEq/L
   41 mg/dL
   106 mEq/L
   138 mEq/L
   34.2 %
   3.7 K/uL
        [image002.jpg]
                             [**2123-7-17**]  05:51 AM
                             [**2123-7-17**]  05:23 PM
                             [**2123-7-18**]  04:17 AM
   WBC
   4.5
   3.7
   Hct
   29.8
   33.9
   34.2
   Plt
   121
   116
   Cr
   1.2
   1.1
   1.1
   TropT
   0.66
   0.77
   Glucose
   89
   79
   Other labs: PT / PTT / INR:13.1/30.7/1.1, CK / CKMB /
   Troponin-T:345/8/0.77, Differential-Neuts:84.7 %, Lymph:11.2 %,
   Mono:3.5 %, Eos:0.5 %, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR [**7-17**]: Increasing pulmonary vascularity consistent with the
   clinical  impression of volume overload.
   Microbiology: Urine [**7-16**]: finally negative
   Blood 8/8: NGTD
   Assessment and Plan
   87 year old woman with mild systolic heart failure, severe aortic
   stenosis and mitral regurgitation, osteoporosis, admitted to the
   hospital after a fall, without evidence of acute fracture, now
   developing ECG changes and cardiac enzyme elevation in setting of
   hypotension, in fair condition.
   #. Non-ST elevation myocardial infarction: in the setting of relative
   hypotension, severe valvular disease as well as anemia. Suspect this
   constitutes a demand event relative hypovolemia. [**Name2 (NI) 1082**] risk score is 4
   (age, aspirin, known lesion and ST changes > 0.5mm). Given possible
   occult bleeding at this time however, risk of heparin drip in the
   setting of decreasing troponins likely outweighs benefit
   n        Serial ECG
   n        Continue daily aspirin
   n        Without symptoms, would not start heparin / plavix, especially
   given likely bleeding
   n        Volume expand with blood, given critical AS however will need
   to infuse very slowly (6 hours); goal near 30
   n        ECG findings suggestive of inferior ischemia, consistent with
   RCA territory; patient will likely be pre-load dependent
   n        Cardiac enzymes in AM
   #. Hypotension: improved, now near baseline
   n        Gentle volume expansion as above
   n        F/U cultures, no signs of infection / sepsis at this time
   #. Anemia: Acute on chronic, with macrocytic pattern
   n        transfuse as above
   n        No clear source of bleeding, negative imaging now and no
   indication of any other losses
   n        GUAIAC all stools
   #. Acute renal failure: Likely pre-renal azotemia, FeNA 0.8%
   n        Blood transfusion as above
   #. Inappropiate lack of tachycardia: although concerning that patient
   is not tachycardic with systemic hypotension, tachycardia would lead to
   further hemodynamic compromise due to inability to have forward flow
   n        Although would avoid any nodal agents, tachycardia should be
   avoided, anticipate euvolemia will help maintain normal heart rate
   #. Systolic heart failure: Appears well compensated now, although per
   history, it appears she recently had a decompensation with severe lower
   extremity edema
   n        Hold diuretics for now
   n        Hold ACE-inhibitor
   #. Valvular heart disease: Critical AS and moderate MR concerning for
   high risk of pulmonary edema, especially at faster heart rates.
   -- Monitor carefully, minimal crackles at this time
   #. Cervical fracture: Unclear if acute or chronic. Patient with soft
   collar that she tolerates very poorly
   n        Hard [**Location (un) 1083**] J collar now
   n        Neurosurgery called, will re-visit need for collar in AM:
   #. Urinary track infection? Equivocal UA, with small leukocyte esterase
   in absence of symptoms
   n        Would not treat unless urine culture is positive.
   #. Conjunctivitis: Ciprofloxacin eye drops for 7 days
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2123-7-17**] 02:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2123-07-19 06:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2123-7-18**] 02:45 PM
   - Received 500cc bolus yesterday for poor urine output
   - Repeat U/A suggests no infection
   - Kept in MICU given poor urine output and borderline hypotension
   - Started on Oxycodone liquid for pain control
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2123-7-18**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-7-19**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 64 (53 - 66) bpm
   BP: 122/46(65) {85/40(53) - 132/69(82)} mmHg
   RR: 22 (11 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,865 mL
                                                                    210 mL
   PO:
                                                                    700 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,165 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    170 mL
   Urine:
                                                                    600 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,265 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: None
   Physical Examination
   Gen: Awake and alert
   HEENT: Dry mucous membranes
   Heart: Systolic murmur
   Lungs: CTAB, few crackles at posterior bases
   Abdomen: Soft, NT/ND, +BS
   Extremities: Mild edema
   Labs / Radiology
   116 K/uL
   11.9 g/dL
   79 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.8 mEq/L
   41 mg/dL
   106 mEq/L
   138 mEq/L
   34.2 %
   3.7 K/uL
        [image002.jpg]
                             [**2123-7-17**]  05:51 AM
                             [**2123-7-17**]  05:23 PM
                             [**2123-7-18**]  04:17 AM
   WBC
   4.5
   3.7
   Hct
   29.8
   33.9
   34.2
   Plt
   121
   116
   Cr
   1.2
   1.1
   1.1
   TropT
   0.66
   0.77
   Glucose
   89
   79
   Other labs: PT / PTT / INR:13.1/30.7/1.1, CK / CKMB /
   Troponin-T:345/8/0.77, Differential-Neuts:84.7 %, Lymph:11.2 %,
   Mono:3.5 %, Eos:0.5 %, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Imaging: None
   Microbiology: [**7-16**] Urine culture: [**Numeric Identifier 1105**]-[**Numeric Identifier 1106**] CORYNEBACTERIUM SPECIES
   (DIPHTHEROIDS)
   [**7-16**] Blood culture: Pending
   [**7-17**] Urine culture: Pending
   Assessment and Plan
   87 year old woman with mild systolic heart failure, severe aortic
   stenosis and mitral regurgitation, osteoporosis, admitted to the
   hospital after a fall, without evidence of acute fracture, now
   developing ECG changes and cardiac enzyme elevation in setting of
   hypotension, in fair condition.
   1)NSTEMI: Likely demand ischemia in the setting of hypovolemia. Occult
   bleeding was also a possibility given acute bleed.  Her lipid panel is
   excellent.
   - Continue ASA
   - Start low dose statin
   - Consider re-starting ace-inhibitor on the medical floor
   - f/u cardiology reccs
   2) Hypotension: Likely [**1-9**] hypovolemia. She did not receive any
   additional fluid boluses over night.
   3) Anemia: Patient presented with acute Hct drop. She received 2 units
   pRBCs with an appropriate bump. Her Hct remains stable at 34 this
   morning.  She has some hip pain on exam and she did not have any hip
   films done on admission.
   - Continue to monitor daily
   - Hip exam; consider hip films
   4) Systolic heart failure: She is not significantly volume overloaded
   on physical exam. Diuretics and anti-hypertensives being held in light
   of her hypotension.
   - Consider restarting diuretics and anti-hypertensives on the floor
   5) Valvular heart disease: Patient has critical AS and moderate MR [**First Name (Titles) **]
[**Last Name (Titles) 1099**]ine. She does not seem significantly volume overloaded on physical
   exam.
   6) Cervical fracture: Patient with collar in place. Neurosurgery
   following.
   - Hard [**Location (un) 1083**] J collar
   - Neurosurgery reccs
   - Oxycodone liquid for pain control
    7) Conjunctivitis: Ciprofloxacin eye drops for 7 day course
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugars well controlled
   Lines:
   20 Gauge - [**2123-7-17**] 02:01 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:  N/A
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to medical floor today